US08980913B2
Step 4: Trans-3-(1,3-Dioxolan-2-yl)propyl 4-((tosyloxy)methyl)cyclohexanecarboxylate
To an ice-cooled solution of trans-3-(1,3-dioxolan-2-yl)propyl 4-(hydroxymethyl)cyclohexanecarboxylate (0.306 g, 1.13 mmol) in pyridine (0.9 mL) was added para-toluenesulfonyl chloride (0.236 g, 1.24 mmol). The reaction mixture was stirred at this temperature for 1 hour and the coolant removed. The reaction mixture was stirred at RT for 18 hours. The reaction mixture was diluted with ethyl acetate and washed with water, brine, dried (magnesium sulfate), filtered and the solvent evaporated at reduced pressure. The residue was used directly without purification.

reactant | trans-3-(1,3-dioxolan-2-yl)propyl 4-(hydroxymethyl)cyclohexanecarboxylate | 1.13 mmol, 0.306 g | OC[C@@H]1CC[C@H](CC1)C(=O)OCCCC1OCCO1 | C14H24O5
reactant | para-toluenesulfonyl chloride | 1.24 mmol, 0.236 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 0.9 mL | N1=CC=CC=C1 | C5H5N
product | Trans-3-(1,3-Dioxolan-2-yl)propyl 4-((tosyloxy)methyl)cyclohexanecarboxylate | S(=O)(=O)(C1=CC=C(C)C=C1)OC[C@@H]1CC[C@H](CC1)C(=O)OCCCC1OCCO1 | C21H30O7S
